US04000143
Reaction of 4-nitrobenzoyl chloride (6.5 g., 0.035 mole) and 2-(o-aminophenethyl)-1-methylpiperidine (6.0 g., 0.0275 mole) in 35 ml. of pyridine according to the method of Example 25 provides 2'-[2-(1-methyl-2-piperidyl)ethyl]-4-nitrobenzanilide. Crystallization from ethyl acetate provides analytically pure material, m.p. 162°-163.5° C.

reactant | 4-nitrobenzoyl chloride | 0.035 mole, 6.5 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 2-(o-aminophenethyl)-1-methylpiperidine | 0.0275 mole, 6.0 g | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2'-[2-(1-methyl-2-piperidyl)ethyl]-4-nitrobenzanilide | CN1C(CCCC1)CCC1=C(NC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC=C1 | C21H25N3O3
